US04613609
(E)-1-(4-Chloro-1-butenyl)-4-fluorobenzene
Dissolve 12.8 g (0.077 mole) of α-cyclopropyl-4-fluorobenzenemethanol in 60 ml of CHCl3, add 20 ml of concentrated HCl and reflux overnight. Separate the two layers, and extract the aqueous layer with methylene chloride. Combine the methylene chloride extracts with the chloroform layer and wash with saturated aqueous sodium bicarbonate, and dry over magnesium sulfate. Evaporate the organic solvents to yield the title compound.

reactant | α-cyclopropyl-4-fluorobenzenemethanol | 0.077 mole, 12.8 g | C1(CC1)C(O)C1=CC=C(C=C1)F | C10H11FO
reactant | HCl | 20 ml | Cl | ClH
solvent | CHCl3 | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | (E)-1-(4-Chloro-1-butenyl)-4-fluorobenzene | ClCC/C=C/C1=CC=C(C=C1)F | C10H10ClF
